US07414134B2
Step (iv): Synthesis of (R)-5-azido-5,6,7,8-tetrahydronapthalene-2-carbaldehyde (16M
(S)-5-Hydroxy-5,6,7,8-tetrahydronapthalene-2-carbaldehyde (19.73 mmol) was dissolved in 50 mL of toluene and cooled to 0° C. Diphenylphosphoryl azide (29.6 mmol, 1.5 eq) was added, followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (23.07 mmol, 1.2 eq). After stirring at room temperature overnight, the solvent was evaporated. The residue was purified by SiO2 chromatography (5→30% ethyl acetate in dichloromethane) to afford the title compound. MS (m/z): 204.2 (M+H).

reactant | (S)-5-Hydroxy-5,6,7,8-tetrahydronapthalene-2-carbaldehyde | 19.73 mmol | O[C@@H]1C=2C=CC(=CC2CCC1)C=O | C11H12O2
reactant | Diphenylphosphoryl azide | 29.6 mmol, 1.5 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 23.07 mmol, 1.2 eq | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-5-azido-5,6,7,8-tetrahydronapthalene-2-carbaldehyde | N(=[N+]=[N-])[C@H]1C=2C=CC(=CC2CCC1)C=O | C11H11N3O
